US05536725
This compound is prepared in a manner analogous to that of Step D of Example 7, using 9.2 grams (0.040 mole) of 5-bromo-2,3-dihydro-2,2-dimethylbenzofuran, 1.1 grams (0.044 mole) of magnesium turnings, and 6.2 grams (0.040 mole) of 1,4-cyclohexanedione mono-ethylene ketal in about 70 mL of tetrahydrofuran, yielding 1-(2,3-dihydro-2,2-dimethylbenzofuran-5-yl)-1-cyclohexen-4-one.

reactant | 5-bromo-2,3-dihydro-2,2-dimethylbenzofuran | 0.040 mole, 9.2 grams | BrC=1C=CC2=C(CC(O2)(C)C)C1 | C10H11BrO
reactant | magnesium | 0.044 mole, 1.1 grams | [Mg] | Mg
reactant | 1,4-cyclohexanedione mono-ethylene ketal | 0.040 mole, 6.2 grams | C1COC2(CCC(CC2)=O)O1 | C8H12O3
solvent | tetrahydrofuran | about 70 mL | O1CCCC1 | C4H8O
product | 1-(2,3-dihydro-2,2-dimethylbenzofuran-5-yl)-1-cyclohexen-4-one | CC1(OC2=C(C1)C=C(C=C2)C2=CCC(CC2)=O)C | C16H18O2
